US04837227
A mixture of 1.5 g of 10-(β-bromoethylthio)-10,11-dihydrodibenz[b,f]oxepin, Example 3, 0.5 g of morpholine, 1.0 g of sodium bicarbonate and 1.0 g of potassium iodide in 15 ml of dimethylformamide is stirred at 60°-70° C. for 64 hours. The reaction mixture is permitted to cool before being diluted with water. The biphasic mixture is extracted with ether and the combined ether extracts are shaken with a large excess of 2N hydrochloric acid. The acid solution is basified with potassium carbonate liberating the amine as an oil which is extracted into ether. The ethereal solution is dried and the ether is removed under vacuum regenerating an oil which is converted to its oxalate. The salt is recrystallized from a methanol-acetone-ether mixture to give colorless plates, mp 196°-198° C. of 10,11-dihydro-10-(β-morpholinoethylthio)dibenz[b,f]oxepin oxalate.

reactant | 10-(β-bromoethylthio)-10,11-dihydrodibenz[b,f]oxepin | 1.5 g | BrCCSC1CC2=C(OC3=C1C=CC=C3)C=CC=C2 | C16H15BrOS
reactant | morpholine | 0.5 g | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | 1.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 10,11-dihydro-10-(β-morpholinoethylthio)dibenz[b,f]oxepin oxalate | C(C(=O)O)(=O)O.O1CCN(CC1)CCSC1CC2=C(OC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C20H23NO2S.C2H2O4/c1-3-7-18-16(5-1)15-20(17-6-2-4-8-19(17)23-18)24-14-11-21-9-12-22-13-10-21;3-1(4)2(5)6/h1-8,20H,9-15H2;(H,3,4)(H,5,6)
